US05171863
5-Methyl-2-triethylsilyl-4-furylmethanol
LiAlH4 (1.0M solution in hexane, 0.51 ml, 0.51 mmol) was added dropwise to a solution of 5-methyl-2-triethylsilyl-4-furaldehyde (230 mg, 1.03 mmol) in tetrahydrofuran (15 ml) at 0 degrees under argon. The stirring solution was allowed to warm to room temperature gradually over 1/2 hour. The reaction was quenched with 10% aqueous HCl and the organics were extracted into ethyl ether. The combined fractions were washed with H2O and brine. Evaporation of the dried (magnesium sulfate) extracts gave an oil which was purified by filtration through silica using 10% ethyl ether/hexanes to give the title compound.

reactant | LiAlH4 | 0.51 mmol, 1.0M, 0.51 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5-methyl-2-triethylsilyl-4-furaldehyde | 1.03 mmol, 230 mg | CC1=C(C=C(O1)[Si](CC)(CC)CC)C=O | C12H20O2Si
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 5-Methyl-2-triethylsilyl-4-furylmethanol | CC1=C(C=C(O1)[Si](CC)(CC)CC)CO | C12H22O2Si
